US08404859B2
Preparation of 5-diethoxymethyl-3-methyl-thiophene-2-carboxylic acid methyl ester
A solution of 5,5-diethoxy-pent-3yne-2-one (3.51 g, 20.6 mmol) in THF (30 ml) was cooled to 0° C. (ice bath). Methyl thioglycolate (1.84 ml, 20.6 mmol) was added in one portion and the mixture was stirred at 0° C. for 2 h. Methanol (10 ml) and Cs2CO3/MgSO4 (7 g/14 g, pre-dried at 200° C. in vacuum) were added at 0° C. The mixture was stirred at 0° C. for 15 min and then at rt for 2.5 h. The reaction mixture was quenched by pouting into ice and 1M NaH2PO4 (100 ml), then extracted with EtOAc. The layers were separated. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography with 5-15% EtOAc in hexane to afford the desired product (4.41 g, 83% yield).

reactant | 5,5-diethoxy-pent-3yne-2-one | 20.6 mmol, 3.51 g | C(C)OC(C#CC(C)=O)OCC | C9H14O3
reactant | Methyl thioglycolate | 20.6 mmol, 1.84 ml | C(CS)(=O)OC | C3H6O2S
reactant | Methanol | 10 ml | CO | CH4O
reactant | Cs2CO3 MgSO4 | 7 g | C(=O)([O-])[O-].[Cs+].[Cs+].[O-]S(=O)(=O)[O-].[Mg+2]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-diethoxymethyl-3-methyl-thiophene-2-carboxylic acid methyl ester | 4.41 g, 83% yield | COC(=O)C=1SC(=CC1C)C(OCC)OCC | C12H18O4S
